US07109219B2
6-Chloro-4-(1H-5-indolylamino)pyrimidine
4,6-Dichloropyrimidine (5.89 g, 40 mmol), 5-aminoindole (6.27 g, 47 mmol) and N,N-diisopropylethylamine (20.6 ml, 0.12 mol) were dissolved in N-methylpyrrolidone (80 ml), and the reaction mixture was stirred at 50° C. for 2.5 hours. The reaction mixture was partitioned between ethyl acetate and water; the aqueous layer was subjected to re-extraction with ethyl acetate; and the combined organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure; a small amount of ethyl acetate was added to the residue to crystallize; and the crystals were filtered off, washed with diethyl ether, and dried under aeration to yield the title compound (3.70 g, 15 mmol, 38%) as white crystals.

reactant | 4,6-Dichloropyrimidine | 40 mmol, 5.89 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 5-aminoindole | 47 mmol, 6.27 g | NC=1C=C2C=CNC2=CC1 | C8H8N2
reactant | N,N-diisopropylethylamine | 0.12 mol, 20.6 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N-methylpyrrolidone | 80 ml | CN1C(CCC1)=O | C5H9NO
product | 6-Chloro-4-(1H-5-indolylamino)pyrimidine | 15 mmol, 3.70 g, 38% | ClC1=CC(=NC=N1)NC=1C=C2C=CNC2=CC1 | C12H9ClN4
